US07064144B2
A mixture of ethyl 1-{(1R,2S)-2-hydroxy-1-[(1-naphthylthio)methyl]propyl}-1H-imidazole-4-carboxylate (0.18 g), 28% ammonium hydroxide (5 mL) and 1,2-dimethoxyethane (10 mL) was heated at 100° C. in the stainless steel bottle for 24 hours. After cooling, the reaction mixture was concentrated in vacuo and the residue was purified by column chromatography on silica gel (gradient elution; 15:1 to 10:1 chloroform-methanol) to give 1-[(2R,3S)-1-(1-naphthylthio)-3-hydroxy-2-butyl]imidazol-4-carboxamide. The product was dissolved in MeOH (5 mL) and treated with a solution of 4 N hydrogen chloride in ethyl acetate (1 mL). The mixture was concentrated in vacuo and the residue was recrystallized from 5:1 ethyl acetate-methanol (6 mL) to give 1-{(1R,2S)-2-hydroxy-1-[(1-naphthylthio)methyl]propyl}-1H-imidazole-4-carboxamide hydrochloride (103) (0.11 g).

reactant | ethyl 1-{(1R,2S)-2-hydroxy-1-[(1-naphthylthio)methyl]propyl}-1H-imidazole-4-carboxylate | 0.18 g | O[C@H]([C@H](CSC1=CC=CC2=CC=CC=C12)N1C=NC(=C1)C(=O)OCC)C | C20H22N2O3S
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | 1-[(2R,3S)-1-(1-naphthylthio)-3-hydroxy-2-butyl]imidazol-4-carboxamide | C1(=CC=CC2=CC=CC=C12)SC[C@@H]([C@H](C)O)N1C=NC(=C1)C(=O)N | C18H19N3O2S
